US07666878B2
a) 3-Fluoro-4-methanesulfonyl-benzaldehyde
Methane sulfinic acid sodium salt (20.1 g, 200 mmol) is added to a stirred solution of 3,4-difluorobenzaldehyde (22.5 g, 158 mmol) in dry DMSO (200 ml) at 75° C. After 2 hours the reaction is poured onto ice-water (200 ml). The precipitate is filtered, washed with water and dissolved in chloroform (400 ml). The organic extract is washed with water (2×200 ml), dried over MgSO4 and the solvent is removed in vacuo to give the titled compound as a white solid.

reactant | Methane sulfinic acid sodium salt | 200 mmol, 20.1 g | [Na+].CS(=O)[O-]
reactant | 3,4-difluorobenzaldehyde | 158 mmol, 22.5 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | 3-Fluoro-4-methanesulfonyl-benzaldehyde | FC=1C=C(C=O)C=CC1S(=O)(=O)C | C8H7FO3S
